US04847289
Step D: Preparation of 5-(4-Hydroxyphenylsulfonyl)-4-methylthiophene-2-sulfonamide
5-(4-methoxyphenylsulfonyl)-4-methylthiophene-2-sulfonamide (9.75 g, 0.028 mol) was suspended in methylene chloride (150 ml) and a 1.0M solution of boron tribromide in methylene chloride (90 ml, 0.09 mol) was added dropwise over 1/2 hour, at 0° C. Then the solution was stirred at ambient temperature for 5 hours. The solution was added to ice and water (500 ml) and ethyl acetate (500 ml) was added. The organic layer was separated, washed with saturated NaCl, saturated NaHCO3 and again with saturated NaCl, dried, filtered and concentrated in vacuo. A yellow oil was obtained which crystallized from ethyl acetate-n-butyl chloride. Yield was 67%. The recrystallized white solid melted at 170°-172° C. Purity and structure were confirmed by C, H, N, analyses, HPLC and NMR.

reactant | 5-(4-methoxyphenylsulfonyl)-4-methylthiophene-2-sulfonamide | 0.028 mol, 9.75 g | COC1=CC=C(C=C1)S(=O)(=O)C1=C(C=C(S1)S(=O)(=O)N)C | C12H13NO5S3
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | water | 500 ml | O | H2O
reactant | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 0.09 mol, 90 ml | C(Cl)Cl | CH2Cl2
product | 5-(4-Hydroxyphenylsulfonyl)-4-methylthiophene-2-sulfonamide | Yield was 67% | OC1=CC=C(C=C1)S(=O)(=O)C1=C(C=C(S1)S(=O)(=O)N)C | C11H11NO5S3
